US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-6-methoxy-7-isopropoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-methyl-1,2,3,4-tetrahydronaphthalen-1-yl)-acetamide:
prepared by reaction of 1-(3,4-Dimethoxy-benzyl)-6-methoxy-7-isopropoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-methyl-1,2,3,4-tetrahydro-1-naphthylamine

reactant | 1-(3,4-Dimethoxy-benzyl)-6-methoxy-7-isopropoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2NCCC3=CC(=C(C=C23)OC(C)C)OC)C=CC1OC | C22H29NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-methyl-1,2,3,4-tetrahydro-1-naphthylamine | CC1C(C2=CC=CC=C2CC1)N | C11H15N
product | 2-[1-(3,4-Dimethoxy-benzyl)-6-methoxy-7-isopropoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-methyl-1,2,3,4-tetrahydronaphthalen-1-yl)-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC(C)C)OC)CC(=O)NC2C(CCC3=CC=CC=C23)C)C=CC1OC | C35H44N2O5
